US07550484B2
To a solution of bis-[1-(3-methyl-pyridin-2-yl)-but-3-enyl]-amine (1.40 g, 4.55 mmol), DIPEA (0.79 mL, 9.10 mmol) and catalytic DMAP in CH2Cl2 (20 mL) at room temperature was added TFAA (0.77 mL, 5.46 mmol). The reaction was complete in 15 minutes. The volatiles were removed in vacuo and the residue was purified by flash column chromatography on silica gel (4:1 hexanes:EtOAc+1% NH4OH) to provide 1.01 g (55%) of 2,2,2-trifluoro-N,N-bis-[1-(3-methyl-pyridine-2-yl)-but-3-enyl}-acetamide as a cream colored solid. 1H NMR(CDCl3) δ 2.05 (br s, 3H), 2.20 (br s, 3H), 2.39 (br s, 1H), 2.52 (br s, 1H), 3.51-3.65 (m, 2H), 4.96-5.25 (m, 6H), 5.55 (br s, 1H), 5.84 (br s, 1H), 6.75 (br s, 2H), 6.86-6.93 (m, 2H), 8.15-8.21 (m, 2H); ES-MS m/z 426 (M+Na+), 404 (M+H+).

reactant | bis-[1-(3-methyl-pyridin-2-yl)-but-3-enyl]-amine | 4.55 mmol, 1.40 g | CC=1C(=NC=CC1)C(CC=C)NC(CC=C)C1=NC=CC=C1C | C20H25N3
reactant | DIPEA | 9.10 mmol, 0.79 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | TFAA | 5.46 mmol, 0.77 mL | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 2,2,2-trifluoro-N,N-bis-[1-(3-methyl-pyridine-2-yl)-but-3-enyl}-acetamide | 1.01 g, 55% | FC(C(=O)N(C(CC=C)C1=NC=CC=C1C)C(CC=C)C1=NC=CC=C1C)(F)F | C22H24F3N3O
